US06444679B1
B. 2-Allyl-2-(3-methoxy-phenyl)-pent-4-enamidine
To a suspension of NH4Cl (13.5 9, 251 mmol) in 170 mL toluene at 0° C. was added a 2.0 M solution of AlMe3 (126 mL, 251 mmol) dropwise. The mixture was warmed to room temperature and stirred for 4 hours. 2-Allyl-2-(3-methoxy-phenyl)-pent-4-enenitrile (38.1 g, 167 mmol) in 30 mL toluene was added and the mixture was heated to 80° C. for 48 hours. The mixture was cooled to room temperature and poured into a stirring suspension of silica gel (50 g) in 150 mL chloroform (CHCl3). After stirring for 30 minutes, the suspension was filtered and the silica gel was washed with methanol (MeOH). The remaining solution was concentrated to an oil and 80 mL acetone was added. The resulting suspension was filtered, the solution was concentrated and the resulting residue was dissolved in 1N hydrochloric acid (HCl)/MeOH (200 mL). The solution was concentrated, 200 mL ethyl ether (Et2O) was added and the resulting precipitate was removed by filtration and dried yielding 22.4 9 (49% yield) of the desired product. 1HNMR (400 MHz, CD3OD) δ 8.73, 8.58 (2 brs, 3H, NH), 7.34 (t, 1H), 6.93-6.91 (comp, 2H), 6.90-6.83 (comp, 1H), 5.56-5.44 (comp, 2H), 5.18-5.14 (comp, 4H), 3.79 (s, 3H), 2.82-2.79 (comp, 4H); MS (M+1) 245.3.

reactant | NH4Cl | 251 mmol | [NH4+].[Cl-]
reactant | AlMe3 | 251 mmol, 126 mL | C[Al](C)C
reactant | 2-Allyl-2-(3-methoxy-phenyl)-pent-4-enenitrile | 167 mmol, 38.1 g | C(C=C)C(C#N)(CC=C)C1=CC(=CC=C1)OC | C15H17NO
solvent | toluene | 170 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Allyl-2-(3-methoxy-phenyl)-pent-4-enamidine | C(C=C)C(C(=N)N)(CC=C)C1=CC(=CC=C1)OC | C15H20N2O
